US06498165B1
2-[1-Phenyl-1-methylethylamino]-4-[benzimidazol-1-yl]pyrimidine
2-Methanesulfonyl-4-[benzimidazol-1-yl]pyrimidine was reacted with cumylamine according to the procedure described in EXAMPLE 1, Step C to afford the title compound. Mass Spectrum (ESI): m/e 330.1 (M+1). 1H NMR (500 MHz, CDCl3): δ partial 8.37 (d, J=4.8 Hz, 1H); 8.05 (br s, 1H); 7.77 (d, J=7.6 Hz; 1H); 7.54 (d, J=7.8 Hz, 2H); 7.41 (m, 2H); 6.75 (d, J=5.5 Hz; 1H); 5.91 (br s, 1H); 1.81 (s, 6H).

reactant | 2-Methanesulfonyl-4-[benzimidazol-1-yl]pyrimidine | CS(=O)(=O)C1=NC=CC(=N1)N1C=NC2=C1C=CC=C2 | C12H10N4O2S
reactant | cumylamine | C(C)(C)(C1=CC=CC=C1)N | C9H13N
product | 2-[1-Phenyl-1-methylethylamino]-4-[benzimidazol-1-yl]pyrimidine | C1(=CC=CC=C1)C(C)(C)NC1=NC=CC(=N1)N1C=NC2=C1C=CC=C2 | C20H19N5
